US04728458
2.5 g of 4-octylcarbonyloxybenzoic acid was dispersed in 50 ml carbon tetrachloride, after dropping 10 ml of thionyl chloride to this solution, refluxed for three hours. After reducing the solvent, 4-octylcarbonyloxybenzoic chloride (CK) was obtained.

reactant | 4-octylcarbonyloxybenzoic acid | 2.5 g | C(CCCCCCC)C(=O)OC1=CC=C(C(=O)O)C=C1 | C16H22O4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-octylcarbonyloxybenzoic chloride | C(CCCCCCC)C(=O)OC1=CC=C(C(=O)Cl)C=C1 | C16H21ClO3
